US07842694B2
5-(Azetidin-1-ylsulfonyl)-3-bromo-2-chloropyridine
Azetidine hydrochloride (0.32 g, 3.44 mmol) was added to a solution of 3-bromo-2-chloropyridine-5-sulfonyl chloride (1 g, 3.44 mmol) in DCM (4 mL) and pyridine (10 mL) and stirred at RT for 22 hours. The solvent was removed in vacuo and ethyl acetate (30 mL) added. The organic phase was washed with 1M hydrochloric acid (20 mL), water (20 mL), brine (20 mL), dried (MgSO4), filtered and the solvent removed in vacuo to give the desired compound (0.4 g).

reactant | Azetidine hydrochloride | 3.44 mmol, 0.32 g | Cl.N1CCC1
reactant | 3-bromo-2-chloropyridine-5-sulfonyl chloride | 3.44 mmol, 1 g | BrC=1C(=NC=C(C1)S(=O)(=O)Cl)Cl | C5H2BrCl2NO2S
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 5-(Azetidin-1-ylsulfonyl)-3-bromo-2-chloropyridine | 0.4 g | N1(CCC1)S(=O)(=O)C=1C=C(C(=NC1)Cl)Br | C8H8BrClN2O2S
